US07910744B2
(3-Acetylphenyl)diphenyl phosphane (3).
25.7 g (73.9 mmol) of [3-(2-methyl-1,3-dioxolane-2-yl)phenyl]diphenylphosphane are dissolved under cover gas in 240 mL of a THF/water mixture (1:1) and mixed with 0.9 g of 4-toluenesulphonic acid. The mixture is boiled under reflux until the original compound is completely reacted. After the addition of 50 mL of a degassed 0.5 M NaHCO3 solution it is washed and after extraction with degassed toluene, the organic phase is separated off and dried over anhydrous MgSO4. The solvent is removed at the rotary evaporator and the residue is purified by column chromatography. The product is obtained in a yield above 70% as colorless oil (purity: >98%, GC). C20H17OP.

reactant | [3-(2-methyl-1,3-dioxolane-2-yl)phenyl]diphenylphosphane | 73.9 mmol, 25.7 g | CC1(OCCO1)C=1C=C(C=CC1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | 4-toluenesulphonic acid | 0.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHCO3 | 0.5 M | C(=O)(O)[O-].[Na+]
solvent | THF water | 240 mL | C1CCOC1.O
product | (3-Acetylphenyl)diphenyl phosphane | yield above 70% | C(C)(=O)C=1C=C(C=CC1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
